US05985632
106 ml (1.10 moles) ethylchloroformate were dripped into a solution of 150 g (1.02 moles) DL-methionine amide in 200 ml water at 5-10° C., during which the pH was maintained at 7-9 by adding sodium hydroxide solution. A thick, finely crystalline precipitate rapidly formed. A suspension which was just able to still be agitated was obtained by the addition of 800 ml water which suspension was agitated 3 hours further at room temperature. Then the colorless crystals were filtered off, washed with water and recrystallized out of 900 ml water. After cooling to 0-5° C., filtering off, washing with water and drying, 129 g (57%) Nα ethoxycarbonyl-DL-methionine amide with a melting point of 110-112° C. were obtained.

reactant | ethylchloroformate | 1.10 moles, 106 ml | C(C)OC(=O)Cl | C3H5ClO2
reactant | DL-methionine amide | 1.02 moles, 150 g | NC(CCSC)C(=O)N | C5H12N2OS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
solvent | water | 800 ml | O | H2O
product | Nα ethoxycarbonyl-DL-methionine amide | 129 g, 57% | C(C)OC(=O)NC(CCSC)C(=O)N | C8H16N2O3S
